US08242124B2
Preparation of ethyl 3-(4-methoxy-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate
To a sealable rb flask containing 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione (0.5 g, 1.018 mmol) and ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate (0.480 g, 1.119 mmol) in 1,4-dioxane (2 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.235 g, 0.204 mmol). The flask was flushed with N2, sealed, and heated to 110° C. After heating the mixture for 17 h, the mixture was cooled to rt. The crude LC/MS showed no starting material remained and the mass for the expected product was present. The crude mixture was diluted with MeOH and was passed through a plug of CELITE® to remove solids. The CELITE® was washed with MeOH, and the organic solution was concentrated under reduced pressure. The residue was diluted with MeOH and ether was added slowly to the mixture. The product that formed was collected by filtration and washed with MeOH. The mother liquor was concentrated under reduced pressure. A second recrystallization was performed using hot MeOH and Et2O. The expected product, ethyl 3-(4-methoxy-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate (0.17 g, 0.309 mmol, 30.3% yield), was isolated as a light-brown solid and was used in the next step although impurities were still apparent by 1H NMR. LC/MS: m/z 551.18 (M+H)+, 1.778 min (method 1). 1H NMR (500 MHz, DMSO-d6) δ ppm 14.04-14.50 (m, 1H) 11.90-12.88 (m, 1H) 8.58-8.76 (m, 1H) 7.81-8.28 (m, 3H) 7.14-7.67 (m, 6H) 4.29-4.96 (m, 4H) 3.53-3.89 (m, 5H) 2.79-3.06 (m, 2H) 1.36 (t, J=7.02 Hz, 3H).

reactant | 1-(7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethane-1,2-dione | 1.018 mmol, 0.5 g | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O)OC | C24H19BrN4O3
reactant | ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate | 1.119 mmol, 0.480 g | C(CCC)[Sn](C1=NNC(=C1)C(=O)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.204 mmol, 0.235 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(4-methoxy-3-(2-oxo-2-(5-(pyridin-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate | 0.309 mmol, 0.17 g, 30.3% yield | COC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)OCC)NC=C2C(C(N2CC1=CC=CC(=C1CC2)C2=NC=CC=C2)=O)=O | C30H26N6O5
